US07855206B2
Step A: 2-Methyl-7-trityl-7,8-dihydro-6H-pyrazolo[1,5-a]pyrrolo[3,4-e]pyrimidine
To a solution of 383 mg (1 mmol) of (4E)-4-[(dimethylamino)methylene]-1-tritylpyrrolidin-3-one in anhydrous ethanol (3 mL) was added 116 mg (1.2 mmol) of 3-methyl-1H-pyrazol-5-amine and the reaction mixture refluxed for 48 h. The mixture was cooled to ambient temperature and the solvent evaporated in vacuo to afford a 10:1 mixture of the title compound and tert-butyl 2-methyl-5H-pyrazolo[1,5-a]pyrrolo[3,4-d]pyrimidine-6(7H)-carboxylate. The resulting regioisomers were chromatographed on a Biotage Horizon® system (silica gel, 2 to 3% methanol/methylene chloride gradient) to yield the title compound and its regioisomer as tan solids. LC/MS 417.1 (M+1).

reactant | (4E)-4-[(dimethylamino)methylene]-1-tritylpyrrolidin-3-one | 1 mmol, 383 mg | CN(C)\C=C/1\C(CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C26H26N2O
reactant | 3-methyl-1H-pyrazol-5-amine | 1.2 mmol, 116 mg | CC1=NNC(=C1)N | C4H7N3
reactant | tert-butyl 2-methyl-5H-pyrazolo[1,5-a]pyrrolo[3,4-d]pyrimidine-6(7H)-carboxylate | CC1=NN2C(N=C3C(=C2)CN(C3)C(=O)OC(C)(C)C)=C1 | C14H18N4O2
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 2-Methyl-7-trityl-7,8-dihydro-6H-pyrazolo[1,5-a]pyrrolo[3,4-e]pyrimidine | CC1=NN2C(N=CC3=C2CN(C3)C(C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)=C1 | C28H24N4
